US07053089B2
To a solution of benzyl 4-(azidomethyl)-4-fluoropiperidine-1-carboxylate (1.5 g, 5.1 mmol) in THF (10 mL.) at RT was added water (0.92 mL, 0.92 mmol) and triphenylphosphine (4.3 g, 15.4 mmol). The reaction mixture was stirred for 60 h, concentrated, dissolved in HCl (1 M) and extracted with Et2O four times. The aqueous layer was basified to pH 11 and extracted with EtOAc twice. The organic layer was dried over Na2SO4, filtered and concentrated. The crude mixture was chromatographed on silica gel (CH2Cl2 to 80:20:2 CH2Cl2:MeOH:NH4OH) to give benzyl 4-(aminomethyl)-4-fluoropiperidine-1-carboxylate. M.S. (M+1): 267

reactant | benzyl 4-(azidomethyl)-4-fluoropiperidine-1-carboxylate | 5.1 mmol, 1.5 g | N(=[N+]=[N-])CC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)F | C14H17FN4O2
reactant | water | 0.92 mmol, 0.92 mL | O | H2O
reactant | triphenylphosphine | 15.4 mmol, 4.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzyl 4-(aminomethyl)-4-fluoropiperidine-1-carboxylate | NCC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)F | C14H19FN2O2
